US07378448B2
Combine 6-(4-cyanomethyl-phenylamino)-nicotinamide (1.8 g), raney nickel (350 mg), tetrahydrofuran (50 mL), and methanol (100 mL) then hydrogenated at 60 PSIG at 40° C. overnight. Filter off catalyst then concentrate on a rotary evaporator to yield 6-[4-(2-amino-ethyl)-phenylamino]-nicotinamide (1.9 g).

reactant | 6-(4-cyanomethyl-phenylamino)-nicotinamide | 1.8 g | C(#N)CC1=CC=C(C=C1)NC1=NC=C(C(=O)N)C=C1 | C14H12N4O
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | raney nickel | 350 mg | [Ni] | Ni
solvent | methanol | 100 mL | CO | CH4O
product | 6-[4-(2-amino-ethyl)-phenylamino]-nicotinamide | 1.9 g | NCCC1=CC=C(C=C1)NC1=NC=C(C(=O)N)C=C1 | C14H16N4O
